US08232284B2
Preparation of 5-chloro-N-[2-(dimethylamino)ethyl]-N-methyl-6-({4-[(1-methyl-1H-pyrazol-3-yl)amino]quinazolin-6-yl}oxy)nicotinamide
5,6-Dichloro-N-[2-(dimethylamino)ethyl]-N-methylnicotinamide (126 mg, 0.46 mmol) and potassium tert-butoxide (58 mg, 0.52 mmol) were added to an N,N-dimethylacetamide solution (1 ml) of 4-[(1-methyl-1H-pyrazol-3-yl)amino]quinazolin-6-ol (50 mg, 0.21 mmol), and stirred overnight under a nitrogen atmosphere at 130° C. The reaction solution was cooled with ice, saline water was added, and extracted with chloroform. The organic layer was washed with water, then dried over anhydrous sodium sulfate, and concentrated under reduced pressure. The obtained residue was purified by amine-type silica gel column chromatography (Biotage NH, hexane:ethyl acetate to chloroform:methanol=1:4 to 100:2) to obtain the entitled compound (25 mg, yield: 25%) as a pale yellow solid.

reactant | 5,6-Dichloro-N-[2-(dimethylamino)ethyl]-N-methylnicotinamide | 0.46 mmol, 126 mg | ClC=1C(=NC=C(C(=O)N(C)CCN(C)C)C1)Cl | C11H15Cl2N3O
reactant | potassium tert-butoxide | 0.52 mmol, 58 mg | CC(C)([O-])C.[K+]
reactant | N,N-dimethylacetamide | 1 ml | CN(C(C)=O)C | C4H9NO
reactant | 4-[(1-methyl-1H-pyrazol-3-yl)amino]quinazolin-6-ol | 0.21 mmol, 50 mg | CN1N=C(C=C1)NC1=NC=NC2=CC=C(C=C12)O | C12H11N5O
solvent | water | O | H2O
product | 5-chloro-N-[2-(dimethylamino)ethyl]-N-methyl-6-({4-[(1-methyl-1H-pyrazol-3-yl)amino]quinazolin-6-yl}oxy)nicotinamide | 25 mg, yield: 25% | ClC=1C(=NC=C(C(=O)N(C)CCN(C)C)C1)OC=1C=C2C(=NC=NC2=CC1)NC1=NN(C=C1)C | C23H25ClN8O2
